* Subcircuit TL560C
.subckt TL560C net-_q1-pad2_ net-_q2-pad3_ net-_q6-pad3_ net-_r3-pad1_ net-_q9-pad1_ 
* e:\fossee\esim\library\subcircuitlibrary\tl560c\tl560c.cir
.include NPN.lib
.include PNP.lib
q1 net-_q1-pad1_ net-_q1-pad2_ net-_q1-pad3_ Q2N2222
q3 net-_q3-pad1_ net-_q3-pad2_ net-_q1-pad3_ Q2N2222
r1  net-_q1-pad3_ net-_q6-pad3_ 5k
q2 net-_q2-pad1_ net-_q1-pad1_ net-_q2-pad3_ Q2N2907A
q4 net-_q4-pad1_ net-_q3-pad1_ net-_q2-pad3_ Q2N2907A
r2  net-_q6-pad2_ net-_q2-pad1_ 1.3k
q6 net-_q3-pad2_ net-_q6-pad2_ net-_q6-pad3_ Q2N2222
q5 net-_q5-pad1_ net-_q4-pad1_ net-_q1-pad3_ Q2N2222
r3  net-_r3-pad1_ net-_q3-pad2_ 2.5k
r5  net-_q6-pad3_ net-_r3-pad1_ 3k
r4  net-_r3-pad1_ net-_q2-pad3_ 1.7k
q7 net-_q7-pad1_ net-_q5-pad1_ net-_q2-pad3_ Q2N2907A
r6  net-_q8-pad1_ net-_q2-pad3_ 0.3k
q8 net-_q8-pad1_ net-_q7-pad1_ net-_q8-pad3_ Q2N2222
r7  net-_q9-pad2_ net-_q8-pad3_ 0.2k
q9 net-_q9-pad1_ net-_q9-pad2_ net-_q6-pad3_ Q2N2222
r8  net-_q6-pad3_ net-_q9-pad2_ 3k
* Control Statements

.ends TL560C